US06894050B2
Preparation of Intermediate [5-Bromo-3-(3-chloro-benzyloxy)-pyrazin-2-yl]-carbamic acid tert-butyl ester (I-3p)
5-Bromo-3-(3-chloro-benzyloxy)-pyrazin-2-ylamine I-3o (1.82 g, 5.8 mmol) and triethylamine (1.22 mL, 8.7 mmol) were dissolved in 1,4-dioxane (29 mL) under dry nitrogen. 4-Dimethylaminopyridine (71 mg, 0.58 mmol) and di-tert-butyl dicarbonate (1.9 g, 8.7 mmol) were added in single portions and the solution was heated to 95° C. The solution was stirred at 95° C. for 3 h then an additional amount of TEA (0.61 mL, 4.4 mmol) and di-tert-butyl dicarbonate (0.95 g, 4.4 mmol) were added. The solution was stirred an additional 30 min at 95° C. then cooled to room temperature, treated with brine, and extracted with EtOAc (120 ml). The extract was washed with brine (120 mL), dried over Na2SO4 (anhydrous), filtered, and concentrated in vacuo to an amber viscous oil. Purification by silica gel column (hexanes/EtOAc 9:1) and trituration with hexane (5 mL) gave the title compound I-3p as a slightly yellow solid (2.26 g, 94% yield).

reactant | 5-Bromo-3-(3-chloro-benzyloxy)-pyrazin-2-ylamine | BrC=1N=C(C(=NC1)N)OCC1=CC(=CC=C1)Cl | C11H9BrClN3O
reactant | triethylamine | 8.7 mmol, 1.22 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.7 mmol, 1.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 4.4 mmol, 0.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 29 mL | O1CCOCC1 | C4H8O2
catalyst | 4-Dimethylaminopyridine | 0.58 mmol, 71 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | brine | [Cl-].[Na+].O
product | [5-Bromo-3-(3-chloro-benzyloxy)-pyrazin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC=C(N=C1OCC1=CC(=CC=C1)Cl)Br)=O | C16H17BrClN3O3
